US06251917B1
a) (S)-2-Methyl-N-(3-phenylpropan-1-ol-2-yl)-5-nitrobenzamide
5 g (27.6 mmol) of 2-methyl-5-nitrobenzoic acid were reacted with 4.2 g (27.6 mmol) of (S)-2-amino-3-phenyl-1-propanol by the method of procedure 3c. 7.5 g (87%) of the product were obtained.

reactant | 2-methyl-5-nitrobenzoic acid | 27.6 mmol, 5 g | CC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | (S)-2-amino-3-phenyl-1-propanol | 27.6 mmol, 4.2 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
product | (S)-2-Methyl-N-(3-phenylpropan-1-ol-2-yl)-5-nitrobenzamide | 7.5 g, 87% | CC1=C(C(=O)N[C@H](CO)CC2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C17H18N2O4
